US04725610
A mixture of 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde (5.0 g), 2,4-thiazolidinedione (3.8 g), piperidine (0.32 ml) and ethanol (100 ml) was stirred under reflux for 5 hours. After cooling, the crystals which separated out were collected by filtration to give 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidene}-2,4-thiazolidinedione (5.1 g, 76.8%). Recrystallization from chloroform-ethanol afforded colorless needles, m.p. 213°-214° C. Elemental analysis for C22H18N2O4S, Calcd.: C, 65.01; H, 4.46; N, 6.89. Found: C, 64.81; H, 4.55; N, 6.78.

reactant | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde | 5.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C19H17NO3
reactant | 2,4-thiazolidinedione | 3.8 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.32 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-{4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzylidene}-2,4-thiazolidinedione | 5.1 g, 76.8% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C22H18N2O4S
